US07078414B2
0.5 mL (5.73 mmol) of oxalyl chloride is added to a solution, cooled to a temperature in the region of 5° C., of 0.42 g (1.76 mmol) of 3-carboxy-1-(quinol-5-yl)-1H-pyrrole in 10 mL of dichloromethane under an argon atmosphere. After stirring at a temperature in the region of 22° C. for 15 hours, concentrating the reaction mixture to dryness under reduced pressure (2.7 kPa) gives 0.55 g of 3-chlorocarbonyl-1-(quinol-5-yl)-1H-pyrrole hydrochloride in the form of a cream-coloured solid which is used directly in the following step.

reactant | oxalyl chloride | 5.73 mmol, 0.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-carboxy-1-(quinol-5-yl)-1H-pyrrole | 1.76 mmol, 0.42 g | C(=O)(O)C1=CN(C=C1)C1=C2C=CC=NC2=CC=C1 | C14H10N2O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-chlorocarbonyl-1-(quinol-5-yl)-1H-pyrrole hydrochloride | 0.55 g | Cl.ClC(=O)C1=CN(C=C1)C1=C2C=CC=NC2=CC=C1 | InChI=1S/C14H9ClN2O.ClH/c15-14(18)10-6-8-17(9-10)13-5-1-4-12-11(13)3-2-7-16-12;/h1-9H;1H
